US06030969
To a solution of 4-iodoisopropylbenzene (12.3 g, 50 mmol, Lancaster Chemical Co.) in triethylamine (150 mL) was added trimethylsilylacetylene (5.89 g, 60 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.70 g, 1 mmol, Aldrich), and copper(I) iodide (1.5 g). The reaction was stirred at room temperature for 18 hours, diluted with hexanes and filtered. The filtrate was evaporated under reduced pressure to give crude 1-(4-(2-propyl)phenyl)-2-trimethylsilyl acetylene.

reactant | 4-iodoisopropylbenzene | 50 mmol, 12.3 g | IC1=CC=C(C=C1)C(C)C | C9H11I
reactant | trimethylsilylacetylene | 60 mmol, 5.89 g | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 150 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1 mmol, 0.70 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.5 g | [Cu]I
product | 1-(4-(2-propyl)phenyl)-2-trimethylsilyl acetylene | CC(C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C14H20Si
